US08008298B2
1-{2-[3-(3-Hydroxymethyl-3-methyl-pyrrolidin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one was prepared following a similar procedure but using acetic acid 1-{3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-3-methyl-pyrrolidin-3-ylmethyl ester as starting material. In this reaction, the acetate was hydrolysed at the same time of the second step of the SEM hydrolysis by heated at reflux the hydrolysis intermediate in a 8/1/1 mixture of MeOH, H2O, and Et3N over the weekend. The product was obtained in 15% yield after SiO2 chromatography (hexanes/EtOAc 0-30% EtOAc).

reactant | acetic acid 1-{3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-3-methyl-pyrrolidin-3-ylmethyl ester | CC(C(=O)C1=CN(C2=NC=C(N=C21)C=2C=C(C=CC2)N2CC(CC2)(C)COC(C)=O)COCC[Si](C)(C)C)(C)C | C31H44N4O4Si
reactant | acetate | C(C)(=O)[O-]
reactant | MeOH | CO | CH4O
reactant | H2O | O | H2O
solvent | Et3N | CCN(CC)CC | C6H15N
product | 1-{2-[3-(3-Hydroxymethyl-3-methyl-pyrrolidin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | 15% yield | OCC1(CN(CC1)C=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)C | C23H28N4O2
